US08357693B2
To a solution of benzyl 5-(benzyloxy)-4-methoxy-2-nitrobenzoate (1.4 g, 3.56 mmol) in EtOH (10 mL) was added 1N NaOH (4.27 mL, 4.27 mmol). The mixture was stirred at RT for 1 h, upon which an additional aliquot of NaOH (4.27 mL, 4.27 mmol) was added. Stirring was continued at RT overnight. The mixture was diluted with water (20 mL) and washed with CH2Cl2 (2×25 mL). The aqueous layer was acidified to pH=2 with 0.5 N HCl and extracted with EtOAc (3×50 mL). The combined organics were dried (Na2SO4), filtered and concentrated in vacuo to give 5-(benzyloxy)-4-methoxy-2-nitrobenzoic acid (1.02 g, 3.37 mmol, 94%).

reactant | benzyl 5-(benzyloxy)-4-methoxy-2-nitrobenzoate | 3.56 mmol, 1.4 g | C(C1=CC=CC=C1)OC=1C(=CC(=C(C(=O)OCC2=CC=CC=C2)C1)[N+](=O)[O-])OC | C22H19NO6
reactant | NaOH | 4.27 mmol, 1N, 4.27 mL | [OH-].[Na+]
reactant | NaOH | 4.27 mmol, 4.27 mL | [OH-].[Na+]
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | water | 20 mL | O | H2O
product | 5-(benzyloxy)-4-methoxy-2-nitrobenzoic acid | 3.37 mmol, 1.02 g, 94% | C(C1=CC=CC=C1)OC=1C(=CC(=C(C(=O)O)C1)[N+](=O)[O-])OC | C15H13NO6
